US06316482B1
To a mixture of 4-[(indol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (150 mg) and N,N-dimethylaminopyridine (5.9 mg) in acetonitrile (10 ml) was added diethyl dicarbonate (46.6 mg) at ambient temperature. The solution was stirred at ambient temperature for a few hours and stood overnight. The resulting mixture was diluted with water and the aqueous solution was extracted with ethyl acetate. Drying, filtering and removal of solvents afforded a crude product. The crude product was purified by column chromatography (eluent; 2% methanol in chloroform) to give 4-[(ethoxycarbonylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (126 mg) as a colorless syrup.

reactant | 4-[(indol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 150 mg | N1C=CC2=C(C=CC=C12)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C36H43N5O5
reactant | diethyl dicarbonate | 46.6 mg | C(=O)(OCC)OC(=O)OCC | C6H10O5
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-[(ethoxycarbonylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 126 mg | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C39H47N5O7
